US04661437
30 g of 2-amino-4-(4'-nitrophenyl)-1,3-thiazole (prepared in accordance with J. Chem. Soc. 1959, (2365) and 100 ml of acetic anhydride are heated for 3 hours at 140° C. Excess acetic anhydride is removed by vacuum distillation and the residue is treated with 500 ml of warm water, filtered, washed, and dried to constant weight, affording 34 g of 2-acetamido-4-(4'-nitrophenyl)-1,3-thiazole.

reactant | 2-amino-4-(4'-nitrophenyl)-1,3-thiazole | 30 g | NC=1SC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-] | C9H7N3O2S
reactant | acetic anhydride | 100 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetamido-4-(4'-nitrophenyl)-1,3-thiazole | 34 g | C(C)(=O)NC=1SC=C(N1)C1=CC=C(C=C1)[N+](=O)[O-] | C11H9N3O3S
